US06563008B2
2,6-Dinitro-4′-hydroxy-(1,1′-biphenyl)-4-methanol
2.96 ml of SOCl2 is added at 0° C., under an inert atmosphere and dropwise to 10 g of 3,5-dinitro-4-chlorobenzoic acid (JANSSEN) in 150 ml of methanol and agitation is carried out under reflux of methanol for 2 hours then for 15 hours at ambient temperature. The reaction medium is poured into ice and precipitation of the product is observed. After drying, 10.3 g of expected product is obtained.

reactant | SOCl2 | 2.96 ml | O=S(Cl)Cl | Cl2OS
reactant | 3,5-dinitro-4-chlorobenzoic acid | 10 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1Cl)[N+](=O)[O-] | C7H3ClN2O6
reactant | methanol | 150 ml | CO | CH4O
product | 2,6-Dinitro-4′-hydroxy-(1,1′-biphenyl)-4-methanol | 10.3 g | [N+](=O)([O-])C1=C(C(=CC(=C1)CO)[N+](=O)[O-])C1=CC=C(C=C1)O | C13H10N2O6
